US04035427
A suspension of 2.7 grams (0.070 mole) of lithium aluminum hydride in 170 milliliters of dry tetrahydrofuran is cooled to 0° and treated by dropwise addition with 6.7 grams (0.035 mole) of p-pivaloyl benzyl alcohol in 70 milliliters of dry tetrahydrofuran. The resulting mixture is stirred for 5 hours at room temperature, and then cooled to 0° C. and treated by dropwise addition with saturated sodium sulfate solution. The mixture is filtered and the filter cake is washed thoroughly with tetrahydrofuran. The tetrahydrofuran is dried over magnesium sulfate, filtered and evaporated to give α-t-butyl-p-xylene-α,α'-diol, m.p. 91° to 95° C.

reactant | lithium aluminum hydride | 0.070 mole, 2.7 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | p-pivaloyl benzyl alcohol | 0.035 mole, 6.7 grams | C(C(C)(C)C)(=O)C1=CC=C(CO)C=C1 | C12H16O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 170 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 milliliters | O1CCCC1 | C4H8O
product | α-t-butyl-p-xylene-α,α'-diol | C(C)(C)(C)C(C1=CC=C(C=C1)CO)O | C12H18O2
